US06350735B1
(2R,3R,4S,5R)-2-{2-(Aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(hydroxymethyl)tetrahydro-3,4-furandiol
10% w/w Palladium on carbon (200 mg) was added to a solution of (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-{2-cyano-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}tetrahydro-3-furanyl acetate (Preparation 18) (1.9 g, 3.2 mmol) in ethanol saturated with ammonia (100 ml). The reaction mixture was stirred under an atmosphere of hydrogen 414 kPa (60 psi) for 16 hours at room temperature. The solids were removed by filtration through Arbocel (Trade Mark) and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol:0.88 concentrated aqueous ammonia (90:10:1 by volume gradually changing to 80:20:2 by volume) to give the title compound as a solid (770 mg).

reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-{2-cyano-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}tetrahydro-3-furanyl acetate | 3.2 mmol, 1.9 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C#N)COC(C)=O | C31H30N6O7
reactant | ammonia | 100 ml | N | H3N
catalyst | Palladium on carbon | 200 mg | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | (2R,3R,4S,5R)-2-{2-(Aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(hydroxymethyl)tetrahydro-3,4-furandiol | 770 mg | NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)CO)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H28N6O4
